US05985886
EXAMPLE 1 a) 1-Methoxy-3,4methylenedioxybenzene
To a solution of methyl-2-methylbenzoate (3.00 g, 20.0 mmol) in carbon tetrachloride (15 ml) was added N-bromosuccinimide (3.55 g. 20.00 mmol). The reaction was allowed to stir at reflux for 3 h. The mixture was cooled and then partioned between t-butyl methyl ether and 5% NaHCO3. The combined organic extracts (×3) were washed with water, brine, and dried (MgSO4). Removal of the solvent under reduced pressure afforded the title compound as a white solid (4.60 g, quantitative yield). 1H NMR (400 MHz. CDCl13) δ 7.98 (d, 1H), 7.54-7.35 (mm, 3H), 4.98 (s, 2H), 3.98 (s. 3H)

reactant | methyl-2-methylbenzoate | 20.0 mmol, 3.00 g | COC(C1=C(C=CC=C1)C)=O | C9H10O2
reactant | N-bromosuccinimide | 20.00 mmol, 3.55 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | t-butyl methyl ether | COC(C)(C)C | C5H12O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Methoxy-3,4methylenedioxybenzene | 4.60 g, quantitative yield | COC1=CC2=C(C=C1)OCO2 | C8H8O3
